US09303033B2
To 5-((5-(3-chlorophenylamino)-7-(piperidin-4-ylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione (20 mg, 0.04 mmol) in THF and AcOH (4.8 mg, 0.08 mmol) was added acetone (2.0 mL, 0.2 mmol) and sodium triacetoxy borohydride (85.0 mg, 0.4 mmol). The mixture was heated at 60° C. for one hour. Saturated sodium bicarbonate solution was added to the reaction mixture. The mixture was extracted with ethyl acetate and dried over sodium sulfate. Then the mixture was, diluted with MeOH, and purified by prep HPLC to yield 5-((5-(3-chlorophenylamino)-7-(1-isopropylpiperidin-4-ylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione. LCMS (M+1=495)

reactant | 5-((5-(3-chlorophenylamino)-7-(piperidin-4-ylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione | 0.04 mmol, 20 mg | ClC=1C=C(C=CC1)NC1=NC=2N(C(=C1)NC1CCNCC1)N=CC2C=C2C(NC(N2)=O)=O | C21H21ClN8O2
reactant | AcOH | 0.08 mmol, 4.8 mg | CC(=O)O | C2H4O2
reactant | acetone | 0.2 mmol, 2.0 mL | CC(=O)C | C3H6O
reactant | sodium triacetoxy borohydride | 0.4 mmol, 85.0 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | 5-((5-(3-chlorophenylamino)-7-(1-isopropylpiperidin-4-ylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione | ClC=1C=C(C=CC1)NC1=NC=2N(C(=C1)NC1CCN(CC1)C(C)C)N=CC2C=C2C(NC(N2)=O)=O | C24H27ClN8O2
